US06664260B2
Under an atmosphere of nitrogen, N5-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinoline-4,5-diamine (0.70 g, 1.92 mmol) was dissolved in 1,2-dichloroethane (15 ml). Triethyl orthoacetate (0.53 ml, 2.88 mmol) was added via syringe and the reaction was heated to reflux for 3 hours. Analysis by thin layer chromatography (95/5 chloroform/methanol) showed complete consumption of the diamine. The reaction was quenched by the addition of water (15 ml). The phases were separated and the aqueous fraction was extracted with dichioromethane (3×10 ml). The combined organic fractions were washed with brine (15 ml), dried (Na2SO4), filtered and concentrated in vacuo to yield 0.73 g of 5-methyl-6-[2-(3-pyridin-3-ylpropoxy)ethyl]-6H-imidazo[4,5-c]tetrazolo[1,5-a]quinoline as a red oil. This material was used without further purification.

reactant | N5-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinoline-4,5-diamine | 1.92 mmol, 0.70 g | N1=CC(=CC=C1)CCCOCCNC1=C(C=2N(C3=CC=CC=C13)N=NN2)N | C19H21N7O
reactant | Triethyl orthoacetate | 2.88 mmol, 0.53 ml | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | 5-methyl-6-[2-(3-pyridin-3-ylpropoxy)ethyl]-6H-imidazo[4,5-c]tetrazolo[1,5-a]quinoline | 0.73 g | CC=1N(C2=C(C=3N(C4=CC=CC=C24)N=NN3)N1)CCOCCCC=1C=NC=CC1 | C21H21N7O
